### PR TITLE
[Merged by Bors] - feat: further API for Cartan matrices

### PR DESCRIPTION
**Pull request by ocfnash**
---

Intended to help with https://github.com/leanprover-community/mathlib4/pull/39491

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -467,19 +468,34 @@ theorem mul_conjTranspose_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
   classical
   simpa using mul_mul_conjTranspose_same .one hA
 
-theorem of_toQuadraticForm' [DecidableEq n] {M : Matrix n n ℝ} (hM : M.IsSymm)
+theorem of_toQuadraticForm' {R : Type*} [CommRing R] [PartialOrder R] [StarRing R] [TrivialStar R]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:471]: This change is not related to the other work here. It generalises a purely algebraic result which was mysteriously stated only for `ℝ` (!) to any partially-ordered ring.

I'm happy to split out this change if requested.

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 2]
```diff
@@ -467,19 +468,34 @@ theorem mul_conjTranspose_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
     (hMq : M.toQuadraticForm'.PosDef) : M.PosDef := by
-  refine of_dotProduct_mulVec_pos hM fun x hx ↦ ?_
-  simp only [toQuadraticForm', QuadraticMap.PosDef, LinearMap.BilinMap.toQuadraticMap_apply,
-    toLinearMap₂'_apply'] at hMq
-  apply hMq x hx
+  refine of_dotProduct_mulVec_pos (by simpa) fun x hx ↦ ?_
+  simpa [toQuadraticForm', toLinearMap₂'_apply'] using hMq x hx
 
-theorem toQuadraticForm' [DecidableEq n] {M : Matrix n n ℝ} (hM : M.PosDef) :
+theorem toQuadraticForm'  {R : Type*} [CommRing R] [PartialOrder R] [StarRing R] [TrivialStar R]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Same remark as for the change to `of_toQuadraticForm'` above.

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 3]
```diff
@@ -188,7 +192,6 @@ theorem isHermitian_blockDiagonal_iff [DecidableEq n] {M : n → Matrix m m α}
 
 /-- A diagonal matrix is Hermitian if the entries have the trivial `star` operation
 (such as on the reals). -/
-@[simp]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean:191]: Adding `isHermitian_iff_isSymm` above makes this lemma is provable by `simp`.

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 4]
```diff
@@ -63,6 +63,10 @@ theorem IsHermitian.apply {A : Matrix n n α} (h : A.IsHermitian) (i j : n) : st
 theorem IsHermitian.ext_iff {A : Matrix n n α} : A.IsHermitian ↔ ∀ i j, star (A j i) = A i j :=
   ⟨IsHermitian.apply, IsHermitian.ext⟩
 
+@[simp] lemma isHermitian_iff_isSymm [TrivialStar α] (A : Matrix n n α) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean]:
```suggestion
@[simp] lemma isHermitian_iff_isSymm [TrivialStar α] {A : Matrix n n α} :
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 5]
```diff
@@ -467,19 +468,34 @@ theorem mul_conjTranspose_self [StarOrderedRing R] [NoZeroDivisors R] (A : Matri
...
+    [DecidableEq n] {M : Matrix n n R} (hM : M.PosDef) :
     M.toQuadraticForm'.PosDef := by
   intro x hx
-  simp only [Matrix.toQuadraticForm', LinearMap.BilinMap.toQuadraticMap_apply,
-    toLinearMap₂'_apply']
-  apply hM.dotProduct_mulVec_pos hx
+  simpa [Matrix.toQuadraticForm', toLinearMap₂'_apply'] using hM.dotProduct_mulVec_pos hx
+
+/-- See also `LinearMap.isPosSemidef_iff_posSemidef_toMatrix` for the semi-definite case. -/
+theorem _root_.LinearMap.BilinForm.toQuadraticMap_posDef_iff_matrix
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Prefix (even the lemma you're pointing to in the docstring has `_posSemidef_` prefixed in the name): 
```suggestion
theorem _root_.LinearMap.BilinForm.posDef_toQuadraticMap_iff_matrix
```
But, also, maybe `_iff_posDef_toMatrix` instead of `_iff_matrix`?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:1]: If you want, you can split this and the Hermitian file into another PR. That would be easy enough to merge quickly.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:1]: Thanks, I'm happy to wait for now. Maybe if I get desperate in a few days, I'll resort to this or request some `splice-bot`ing.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:1]: Feel free to assign me to those if you do :)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
